US05843957
Preparation of N-[1-butyl-4-{3-(3-hydroxypropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[1-butyl-4-{3-(3-benzyloxypropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (316 mg, 0.48 mmol) in methanol (20 ml) were added ammonium formate (91 mg, 1.44 mmol) and 10% palladium-carbon (100 mg), and the mixture was refluxed for 10 hours. After allowed to stand for cooling, the mixture was filtered through a cerite pad, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and the mixture was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, purified by silica gel column chromatography (1-3% methanol in chloroform), and crystallized from ether/hexane to give the title compound (85 mg, 0.15 mmol).

reactant | N-[1-butyl-4-{3-(3-benzyloxypropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.48 mmol, 316 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCOCC1=CC=CC=C1)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C41H48N4O4
reactant | ammonium formate | 1.44 mmol, 91 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | N-[1-butyl-4-{3-(3-hydroxypropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.15 mmol, 85 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCO)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C34H42N4O4
